US08106064B2
5-tert-Butyl-6-hydroxy-1H-pyrimidine-2,4-dione (53):
To a stirred solution of sodium ethoxide (prepared from 2.55 g of sodium, 10 mmol) in ethanol (60 ml), was added diethyl tert-butylmalonate (20 g, 92 mmol). The mixture was heated up to reflux. Urea (5.83 g, 97 mmol) in hot ethanol (50 ml) was added and the mixture was refluxed for 6 hr. The mixture was then evaporated in vacuo and the residue was dissolved in water (80 ml). The solution was washed with ether and the water layer was cooled in an ice bath and acidified by the addition of conc. hydrochloric acid. The precipitate was filtered, washed with cold water and n-hexane, and dried in vacuo to give 8.22 g (48%) of a white solid. m.p. 247-248° C.; 1H NMR (200 MHz, DMSO-d6) δ 1.00 (9H, s), 2.83 (1H, s), 11.11 (2H, s).

reactant | sodium ethoxide | 10 mmol, 2.55 g | [O-]CC.[Na+]
reactant | diethyl tert-butylmalonate | 92 mmol, 20 g | C(C)(C)(C)C(C(=O)OCC)C(=O)OCC | C11H20O4
reactant | Urea | 97 mmol, 5.83 g | NC(=O)N | CH4N2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-tert-Butyl-6-hydroxy-1H-pyrimidine-2,4-dione | 8.22 g, 48% | C(C)(C)(C)C=1C(NC(NC1O)=O)=O | C8H12N2O3
